US07504408B2
N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-[3-piperazin-1-ylpropoxy]-quinazolin-4-amine
N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (0.165 g) was dissolved in 2-methoxyethanol (5 ml) and piperazine (0.586 g) was then added and the mixture heated to 110° C. for 45 minutes. The reaction mixture was cooled to room temperature, diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate and then evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of dichloromethane and methanol with methanolic ammonia as eluent. There was thus obtained the title compound (0.126 g) as a clear gum; NMR Spectrum: (CDCl3) 2.09 (quin, 2H), 2.46 (s(broad), 4H), 2.54 (t, 2H), 2.91 (t, 4H), 3.45 (s, 3H), 3.47 (s, 1H), 3.96 (s, 3H), 4.23 (t, 2H), 4.35 (s, 2H), 6.06 (s, 2H), 7.06 (s, 1H), 7.13 (s, 1H), 7.28 (s, 2H), 8.62 (s, 1H); Mass Spectrum: M+H+ 540/542.

reactant | N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.165 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C23H21Cl2N3O5
reactant | piperazine | 0.586 g | N1CCNCC1 | C4H10N2
solvent | 2-methoxyethanol | 5 ml | COCCO | C3H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-[3-piperazin-1-ylpropoxy]-quinazolin-4-amine | 0.126 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCNCC1 | C27H30ClN5O5
